US03994920
Condense o-benzoylbenzoic acid (22 g.) and 2,3-diaminobutane in toluene (400 ml.) by the procedure of Example 1 to obtain 2,3-dimethyl-9b-phenyl-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one, m.p. 162°-4° C. (elemental analysis confirms the empirical formula C18H18N2O) and reduce with lithium aluminum hydride as described in Example 1 to obtain 3,4-dimethyl-1,2,3,4,5,6-hexahydro-1-phenyl-2,5-benzodiazocine.

reactant | o-benzoylbenzoic acid | 22 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | 2,3-diaminobutane | NC(C)C(C)N | C4H12N2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dimethyl-9b-phenyl-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | CC1NC2(N(C(C3=CC=CC=C23)=O)C1C)C1=CC=CC=C1 | C18H18N2O
